US08389508B2
To a solution of methyl 1-{[2-ethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-3-azetidinecarboxylate (5.23 g, 14.56 mmol) in Methanol (50 mL) was added potassium hydrogen fluoride (16.17 mL, 72.8 mmol). The mixture was stirred at rt for an hour. LCMS showed that the starting material was consumed completely. The solvent was removed under the reduced pressure and the residue was acidified with HCl (1.0 M) to pH value around 3 then extracted with EtOAc (50 mL). The aqueous phase was adjusted to pH value around 6 with sat. NaHCO3 solution, the target product was collected by filtering and dried in vacuum to give (2-ethyl-3-((3-(methoxycarbonyl)azetidin-1-yl)methyl)phenyl)boronic acid (2.5 g) as a brown solid. δH (DMSO-d6, 600 MHz): 1.02 (2H, m), 2.81 (2H, m), 3.70 (4H, m), 4.23 (4H, m), 4.33 (2H, m), 7.00 (2H, m), 7.43 (1H, m), 9.93 (1H, m).

reactant | methyl 1-{[2-ethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-3-azetidinecarboxylate | 14.56 mmol, 5.23 g | C(C)C1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)CN1CC(C1)C(=O)OC | C20H30BNO4
reactant | potassium hydrogen fluoride | 72.8 mmol, 16.17 mL | F.[K]
solvent | Methanol | 50 mL | CO | CH4O
product | (2-ethyl-3-((3-(methoxycarbonyl)azetidin-1-yl)methyl)phenyl)boronic acid | 2.5 g | C(C)C1=C(C=CC=C1CN1CC(C1)C(=O)OC)B(O)O | C14H20BNO4
